US08541414B2
2-Propylphenylboronic Acid
15.5 mL of butyl lithium (1.6 mol/L solution in hexane) was placed in a reaction vessel, which was chilled in a dry ice-acetone bath. To this was added a solution of 4.412 g of 2-propylbromobenzene in 45 mL of tetrahydrofuran at −70° C. dropwise over 85 minutes under a nitrogen atmosphere. The mixture was stirred at −70° C. for 30 minutes, to which 3.75 mL of trimethyl borate was then added at −70° C. dropwise over 15 minutes. The mixture was stirred at −70° C. for one hour and then at room temperature for 18 hours. To the reaction mixture was added 33 mL of 2N hydrochloric acid dropwise over 10 minutes and then the mixture was stirred at room temperature for 4 hours. To the mixture was added 20 mL of water, which was extracted with 70 mL of ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was subjected to a silica gel column chromatography (as eluent, ethyl acetate:hexane=1:2, and then 2:1) to yield 1.641 g of the title compound as colorless crystals.

reactant | butyl lithium | 1.6 mol/L, 15.5 mL | C(CCC)[Li]
reactant | 2-propylbromobenzene | 4.412 g | C(CC)C1=C(C=CC=C1)Br | C9H11Br
reactant | trimethyl borate | 3.75 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2N, 33 mL | Cl | ClH
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-Propylphenylboronic Acid | 1.641 g | C(CC)C1=C(C=CC=C1)B(O)O | C9H13BO2
